US05306728
1.9 g of N-ethyl-2-[2-[3-(3-thienyl)phenoxy]ethoxy]ethylamine and 2.7 g of potassium carbonate were dissolved in 15 ml of dimethylformamide, and a dimethylformamide solution (5 ml) of 1.43 g of (E)-5-bromo-3-penten-1-ynyl(trimethyl)silane [synthesized by mesylating 3-hydroxy-4-penten-1-ynyl(trimethyl)silane, prepared from trimethylsilylacetylene and acrolein, with methanesulfonyl chloride and triethylamine, and subsequently treating the mesylated product with trimethylammonium bromide] was added dropwise. The mixture was stirred at room temperature for 30 minutes, and then ethyl acetate and water were added. The organic layer separated was worked up in a customary manner, and the product was purified by silica gel column chromatography [methylene chloride / methanol=20/1] to give 2.3 g of (E)-N-ethyl-N-(5-trimethylsilyl-2-penten-4-ynyl)-2-[2-[3-(3-thienyl) phenoxy]ethoxy]ethylamine as a colorless oil.

reactant | N-ethyl-2-[2-[3-(3-thienyl)phenoxy]ethoxy]ethylamine | 1.9 g | C(C)NCCOCCOC1=CC(=CC=C1)C1=CSC=C1 | C16H21NO2S
reactant | potassium carbonate | 2.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | (E)-5-bromo-3-penten-1-ynyl(trimethyl)silane | 1.43 g | BrC/C=C/C#C[Si](C)(C)C | C8H13BrSi
reactant | 3-hydroxy-4-penten-1-ynyl(trimethyl)silane | OC(C#C[Si](C)(C)C)C=C | C8H14OSi
reactant | trimethylsilylacetylene | C[Si](C)(C)C#C | C5H10Si
reactant | acrolein | C(=O)C=C | C3H4O
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | trimethylammonium bromide | [Br-].C[NH+](C)C
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | (E)-N-ethyl-N-(5-trimethylsilyl-2-penten-4-ynyl)-2-[2-[3-(3-thienyl) phenoxy]ethoxy]ethylamine | 2.3 g | C(C)N(C\C=C\C#C[Si](C)(C)C)CCOCCOC1=CC(=CC=C1)C1=CSC=C1 | C24H33NO2SSi
